US08071592B2
(b) 4-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one
A solution of phenylmethyl [((3S,4S)-4-hydroxy-1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate (1.0 g, 2.2 mmol) in methanol was treated with 10% Pd/C (0.44 g) and shaken under 15 psi at room temperature for 2 hours. Pd was filtered through Celite®, the filtrate was concentrated. The residue was redissolved in DCM (20 mL) and methanol (5 mL), treated with manganese(IV) oxide (561 mg, 6.6 mmol), and stirred at room temperature for 2 hours. Solid was filtered and filtrate was concentrated to give product (0.6 g, 85%).

reactant | phenylmethyl [((3S,4S)-4-hydroxy-1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate | 2.2 mmol, 1.0 g | O[C@H]1[C@H](CN(C1)CCN1C2=C(N=CC1=O)C=CC(=N2)OC)CNC(OCC2=CC=CC=C2)=O | C23H27N5O5
solvent | methanol | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | 0.44 g | [Pd] | Pd
catalyst | manganese(IV) oxide | 6.6 mmol, 561 mg | [O-2].[Mn+4].[O-2]
product | 4-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one | 0.6 g, 85% | NC[C@H]1CN(C[C@H]1O)CCN1C2=C(N=CC1=O)C=CC(=N2)OC | C15H21N5O3
